US06274632B1
4,4-Difluorobut-3-enyl sulfinylchloride (0.5 g) in dry diethyl ether (1.5 ml) was stirred at ambient temperature and 4-chlorobenzylamine (1.0 g) in diethyl ether (1.5 ml) was added dropwise. The mixture was stored at ambient temperature for 2 days then water (100 ml) added. The mixture was made acidic with aqueous hydrochloric acid (2M) and extracted with dichloromethane (100 ml). The organic fraction was separated, washed with water then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give an oil which was fractionated by chromatography (silica; ethyl acetate/hexane 2:1 by volume) to give N-4-chlorobenzyl 4,4-difluorobut-3-enyl-sulfinamide, 0.094 g, as an off-white solid, mp37-8° C.

reactant | 4,4-Difluorobut-3-enyl sulfinylchloride | 0.5 g | FC(=CCCS(=O)Cl)F | C4H5ClF2OS
reactant | 4-chlorobenzylamine | 1.0 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-4-chlorobenzyl 4,4-difluorobut-3-enyl-sulfinamide | ClC1=CC=C(CNS(=O)CCC=C(F)F)C=C1 | C11H12ClF2NOS
